US07211595B2
(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl (4-cyanophenyl)(oxo)acetate
A mixture of ethyl (4-cyanophenyl)(oxo)acetate (35.2 g, 173 mmol), (1R,2S,5R)-(−)-menthol (41.0 g, 262 mmol), and titanium ethoxide (3.6 mL, 17 mmol) was heated to 80 ° C. under vacuum for 60 hours. The mixture was diluted with MTBE (1.5 L), washed sequentially with 10% HCl (2×300 mL), saturated aqueous NaHCO3, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 2% ethyl acetate/hexanes to provide the desired product (50.0 g, 92% yield). 1H NMR (CDCl3) δ 8.12 (m, 2H), 7.82 (m, 2H), 5.01 (ddd, 2H), 2.15 (m, 1H), 1.91 (m, 1H), 1.72 (m, 2H), 1.55 (m, 2H), 1.16 (m, 2H), 0.97(d, 3H), 0.91 (d, 3H), 0.83 (d, 3H).

reactant | ethyl (4-cyanophenyl)(oxo)acetate | 173 mmol, 35.2 g | C(#N)C1=CC=C(C=C1)C(C(=O)OCC)=O | C11H9NO3
reactant | (1R,2S,5R)-(−)-menthol | 262 mmol, 41.0 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
solvent | MTBE | 1.5 L | CC(C)(C)OC | C5H12O
catalyst | titanium ethoxide | 17 mmol, 3.6 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl (4-cyanophenyl)(oxo)acetate | 50.0 g, 92% yield | C(#N)C1=CC=C(C=C1)C(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)=O | C19H23NO3
